US05736534
[1-(6,7-Dimethoxy-quinazolin-4-yl)-2,3-dihydro-1H-indol-2-yl]-methanol
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 57% yield from 2-hydroxymethyl-indoline (1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 145.5°-147° C.; LC-MS: 338 (MH+); anal. RP18-HPLC RT: 4.03 min.).

reactant | 2-hydroxymethyl-indoline | 1 eq. | OCC1NC2=CC=CC=C2C1 | C9H11NO
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | [1-(6,7-Dimethoxy-quinazolin-4-yl)-2,3-dihydro-1H-indol-2-yl]-methanol | 57% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1C(CC2=CC=CC=C12)CO | C19H19N3O3
